US05698494
N-[4-Chloro-3-(2-chloro-2-ethoxycarbonyletheny1)phenyl]-3-methylglutaric acid monoamide (compound 2.1)
5.2 g of 4-chloro-3-(2-chloro-2-ethoxycarbonyl-ethenyl)aniline in 30 ml of dichloromethane were added dropwise at 25° C. to a solution of 2.56 g of 3-methylglutaric anhydride in 50 ml of dichloromethane. After 3 h, the deposited precipitate was removed and washed with dichloromethane. Yield: 5 g; m.p.: 137°-138° C.

reactant | 4-chloro-3-(2-chloro-2-ethoxycarbonyl-ethenyl)aniline | 5.2 g | ClC1=C(C=C(N)C=C1)C=C(C(=O)OCC)Cl | C11H11Cl2NO2
reactant | 3-methylglutaric anhydride | 2.56 g | CC1CC(=O)OC(C1)=O | C6H8O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[4-Chloro-3-(2-chloro-2-ethoxycarbonyletheny1)phenyl]-3-methylglutaric acid monoamide | ClC1=C(C=C(C=C1)NC(CC(CC(=O)O)C)=O)C=C(C(=O)OCC)Cl | C17H19Cl2NO5
